US07553854B2
To the mixture of 2-(methylthio)benzo[d]thiazol-6-ol (1 g, 5.08 mmol) and cesium carbonate (4.55 g, 14 mmol) in 15 ml of NMP was added 2-chloro-4-fluoropyridine (1.32 mg, 10 mmol). The reaction mixture was stirred at 55° C. for overnight. The reaction mixture was poured into 80 ml of aq. saturated NaHCO3 and extracted with ethyl acetate (2×150 ml). The combined organic layers were washed with aq. 0.1M NaHSO4 (60 ml), water (2×60 ml) and brine (60 ml), then dried over MgSO4, filtered and evaporated in vacuo to give 6-(2-chloropyridin-4-yloxy)-2-(methylthio)benzo[d]thiazole (1.72 g) as brown oil that carried on to next step without purification. ES/MS m/z 308.9 (MH+).

reactant | 2-(methylthio)benzo[d]thiazol-6-ol | 5.08 mmol, 1 g | CSC=1SC2=C(N1)C=CC(=C2)O | C8H7NOS2
reactant | cesium carbonate | 14 mmol, 4.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-4-fluoropyridine | 10 mmol, 1.32 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | 6-(2-chloropyridin-4-yloxy)-2-(methylthio)benzo[d]thiazole | 1.72 g | ClC1=NC=CC(=C1)OC1=CC2=C(N=C(S2)SC)C=C1 | C13H9ClN2OS2
